US08445510B2
Trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)-N,N-dimethylcyclohexanecarboxamide
A mixture of trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylic acid (9.00 mg, 0.0176 mmol), dimethylamine hydrochloride (14.4 mg, 0.176 mmol), TBTU (8.48 mg, 0.0264 mmol), DIPEA (0.0153 mL, 0.0881 mmol) and DCM (3 mL, 50 mmol) was stirred at rt for 1 min. The solution was concentrated in vacuo, redissolved in MeOH (1 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.65-1.77 (m, 2H), 1.80 (d, J=7.3 Hz, 3H), 1.89-1.97 (m, 2H), 1.98-2.08 (m, 4H), 2.23 (s, 3H), 2.81 (m, J=11.8, 11.8, 3.4, 3.3 Hz, 1H), 2.95 (s, 3H), 3.16 (s, 3H), 3.65 (br. s., 3H), 4.16-4.30 (m, 1H), 5.06-5.15 (m, 1H), 6.89 (dd, J=9.0, 4.4 Hz, 1H), 7.08 (t, J=8.8 Hz, 1H), 7.34 (d, J=1.3 Hz, 1H), 7.40 (s, 1H), 7.48 (s, 1H), 8.11 (s, 1H). MS (ES+): tri/z=538.24/540.24 (100/50) [MH+]. HPLC: tR=1.45 min (polar—3 min, UPLC-ACQUITY).

reactant | trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylic acid | 0.0176 mmol, 9.00 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)C(=O)O | C27H28ClFN4O3
reactant | dimethylamine hydrochloride | 0.176 mmol, 14.4 mg | Cl.CNC
reactant | TBTU | 0.0264 mmol, 8.48 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.0881 mmol, 0.0153 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | 50 mmol, 3 mL | C(Cl)Cl | CH2Cl2
product | Trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)-N,N-dimethylcyclohexanecarboxamide | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)C(=O)N(C)C | C29H33ClFN5O2
